US08580229B2
To a solution of 2-(4′-aminophenyl)-6-methoxy benzothiazole (22 mg, 0.09 mmol) in glacial acetic acid (2.0 mL) was injected 1 M iodochloride solution in CH2Cl2 (0.10 mL, 0.10 mmol, 1.2 eq.) under N2 atmosphere. The reaction mixture was stirred at room temperature for 16 hr. The glacial acetic acid was removed under reduced pressure and the residue was dissolved in CH2Cl2. After neutralizing the solution with NaHCO3, the aqueous layer was separated and extracted with CH2Cl2. The organic layers were combined and dried over MgSO4. Following the evaporation of the solvent, the residue was purified by preparative TLC(Hexanes:ethyl acetate=6:1) to give 2-(4′-amino-3′-iodophenyl)-6-methoxy benzothiazole (25 mg, 76%) as brown solid. 1HNMR (300 MHz, CDCl3) δ (ppm): 8.35 (d, J=2.0 Hz, 1H), 7.87 (dd, J1=2.0 Hz, J2=9.0 Hz, 1H), 7.31 (d, J=2.2 Hz, 1H), 7.04 (dd, J1=2.2 Hz, J2=9.0 Hz, 1H), 6.76 (d, J=9.0 Hz, 1H), 3.87 (s, 3H).

reactant | 2-(4′-aminophenyl)-6-methoxy benzothiazole | 0.09 mmol, 22 mg | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
reactant | iodochloride | 1 M | ICl | ClI
reactant | CH2Cl2 | 0.10 mmol, 0.10 mL, 1.2 eq. | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | 2-(4′-amino-3′-iodophenyl)-6-methoxy benzothiazole | 25 mg, 76% | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC)I | C14H11IN2OS
